* Z:\home\tumbar\git\CMPE460\lab8\prelab.asc
C1 HPF N001 {Ch}
C2 0 LPF {Cl}
R1 HPF 0 {Rh}
R2 LPF HPF {Rl}
V1 N001 0 AC 1 0
XU1 LPF N002 N003 0 OUT level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R3 OUT N002 {R1}
R4 N002 0 {R2}
V2 N003 0 5
.param Ch=47u Rh=6.7k Rl=2k Cl=47u
.param R1=390k R2=1k
.ac dec 1000 0.01 20
.lib UniversalOpAmp1.lib
.backanno
.end
